US08110579B2
According to the method described in example 4.1., starting from 20.8 g (78.5 mmol) of 2-iodo-5-nitrophenol and 9.3 mL (78.5 mmol) of benzyl bromide, we obtain 25.2 g of 2-(benzyloxy)-1-iodo-4-nitrobenzene in the form of oil.

reactant | 2-iodo-5-nitrophenol | 78.5 mmol, 20.8 g | IC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4INO3
reactant | benzyl bromide | 78.5 mmol, 9.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(benzyloxy)-1-iodo-4-nitrobenzene | 25.2 g, Yield=90% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])I | C13H10INO3
